US04203909
1-Cyano-2-(2-propynylamino)-2-{2-[(5-dimethylaminomethyl-2-furyl)methylthio]ethylamino}ethylene
Alternatively, when 2-[(5-dimethylaminomethyl-2-furyl)methylthio]ethylamine is reacted with 1-cyano-2,2-bis(methoxy)ethylene and the resultant 1-cyano-2-methoxy-2-{2-[(5-dimethylaminomethyl-2-furyl)methylthio]ethylamino}ethylene is reacted with propargylamine according to the general procedure of Example 1, the title product is produced.

reactant | 2-[(5-dimethylaminomethyl-2-furyl)methylthio]ethylamine | CN(C)CC1=CC=C(O1)CSCCN | C10H18N2OS
reactant | 1-cyano-2,2-bis(methoxy)ethylene | C(#N)C=C(OC)OC | C5H7NO2
reactant | 1-cyano-2-methoxy-2-{2-[(5-dimethylaminomethyl-2-furyl)methylthio]ethylamino}ethylene | C(#N)C=C(NCCSCC=1OC(=CC1)CN(C)C)OC | C14H21N3O2S
reactant | propargylamine | C(C#C)N | C3H5N
product | 1-Cyano-2-(2-propynylamino)-2-{2-[(5-dimethylaminomethyl-2-furyl)methylthio]ethylamino}ethylene | C(#N)C=C(NCCSCC=1OC(=CC1)CN(C)C)NCC#C | C16H22N4OS
